US07582761B2
(b) 4-Nitro-6-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one
The reaction of 3-nitro-5-(trifluoromethyl)benzene-1,2-diamine (2.2 g, 10 mmol) with 1,1′-carbonyldiimidazole (1.78 g, 11 mmol, Aldrich) under the conditions of Example 1b afforded the title compound as a yellow solid. MS (ESI, pos. ion) m/z: 248 (M+1).

reactant | 3-nitro-5-(trifluoromethyl)benzene-1,2-diamine | 10 mmol, 2.2 g | [N+](=O)([O-])C1=C(C(=CC(=C1)C(F)(F)F)N)N | C7H6F3N3O2
reactant | 1,1′-carbonyldiimidazole | 11 mmol, 1.78 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 4-Nitro-6-(trifluoromethyl)-1,3-dihydro-2H-benzimidazol-2-one | [N+](=O)([O-])C1=CC(=CC=2NC(NC21)=O)C(F)(F)F | C8H4F3N3O3
